US06603012B2
305 mg of 2-methyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-propanol dissolved in 15 ml THF were treated with 338 mg of triphenylphosphine, 196 mg of methyl 4-hydroxybenzoate and 0.21 ml of diethyl azodicarboxylate. The reaction mixture was heated to reflux for 6 hours. The mixture was partitioned in 100 ml of 1:1 ethyl acetate/sat. aq. sodium chloride solution. The phases were separated and the organic phase was dried over MgSO4. The solvents were removed in vacuo and the resulting oil was purified by flash chromatography (SiO2, 20% ethyl acetate/hexanes), giving 160 mg of methyl 4-[2-methyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-propyloxy]-benzoate as a colorless oil. The ester (160 mg), dissolved in 4 ml THF/0.8 ml H2O, was treated with 50 mg of lithium hydroxide hydrate. The mixture was heated at 60° C. for two hours. The mixture was acidified to pH 2 with 1N hydrochloric acid then partitioned in 10 ml ethyl acetate/10 ml sat. aq. sodium chloride solution. The phases were separated and the organic phase was dried over MgSO4. The solvent was removed in vacuo and the crude product was purified by preparation tlc (SiO2, 40% ethyl acetate/hexanes), giving a white foam. 1H NMR (CDCl3): 8.03 (d, J=8.8 Hz, 2H), 7.35 (d, J=2.1 Hz, 1H), 7.26 (d, J=8.4 Hz, 1H), 7.17 (dd, J=8.4, 2.1 Hz, 1H), 6.91 (d, J=8.8 Hz, 2H), 3.96 (s, 2H), 1.67 (s, 4H), 1.46 (s, 6H), 1.27 (s, 12H).

reactant | 2-methyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-propanol | 305 mg | CC(CO)(C)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C18H28O
reactant | triphenylphosphine | 338 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 4-hydroxybenzoate | 196 mg | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | diethyl azodicarboxylate | 0.21 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | methyl 4-[2-methyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-propyloxy]-benzoate | 160 mg | CC(COC1=CC=C(C(=O)OC)C=C1)(C)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C26H34O3
